US07557112B2
3-aminothiophene-2-carboxamide was added to an acetic acid solution of 4,5-dichlorophthalic anhydride and stirred all night heated to reflux to give 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)thiophene-2-carboxamide. 1M NaOH aq was added to THF-MeOH solution of the obtained 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)thiophene-2-carboxamide and stirred for 2.5 hours at 80° C. to give 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoic acid. Sulfuric acid was added to a MeOH-1,4-dioxane solution of the obtained 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoic acid and stirred for three days at 70° C. to give methyl 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoate.

reactant | Sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoic acid | ClC1=CC(=C(C(=O)O)C=C1Cl)C=1NC(C2=C(N1)C=CS2)=O | C13H6Cl2N2O3S
reactant | MeOH 1,4-dioxane | CO.O1CCOCC1
product | methyl 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoate | ClC1=CC(=C(C(=O)OC)C=C1Cl)C=1NC(C2=C(N1)C=CS2)=O | C14H8Cl2N2O3S
